.subckt not1 in out Vdd
.param InvP=2
.PARAM Lmin=22n
.PARAM Wmin=22n
.PARAM Ldiff=44n

M1 out in Vdd Vdd pmos W={Wmin*InvP} L={Lmin} 
M2 out in 0 0 nmos W={Wmin} L={Lmin} 
.ends 
